US09056874B2
2-((5-(Aminomethyl)-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of 2-((5-((1,3-dioxoisoindolin-2-yl)methyl)-7-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (60 mg, 0.100 mmol) and hydrazine hydrate (5.01 mg, 0.100 mmol) in EtOH (2 mL) was stirred at 100° C. under microwave irradiation for 0.5 hr. To the mixture was added KOH (56.1 mg, 1.001 mmol), and then the mixture was stirred at 100° C. under the microwave irradiation for 1.75 h. The reaction mixture was diluted with CH2Cl2/2,2,2-trifluoroethanol (c.a. 9/1). The layers were separated and the organic layer was washed successively by H2O and brine, dried over Na2SO4, and filtered. After concentration, the residue was purified by silica gel flash column chromatography (CH2Cl2/2M NH3 in MeOH=94/6) to give the title compound. 1H NMR (400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.28 (br. s., 1H), 8.53 (br. s., 3H), 8.09 (s, 1H), 7.68 (d, J=8.34 Hz, 1H), 7.55 (dd, J=1.00, 8.30 Hz, 1H), 7.38 (t, J=2.80 Hz, 1H), 7.06 (s, 1H), 6.76-6.84 (m, 1H), 4.61 (s, 2H), 4.27-4.42 (m, 2H), 2.45 (s, 3H). HRMS calcd. for C19H17N6 (M+H)+ 316.1557. found 316.1559.

reactant | 2-((5-((1,3-dioxoisoindolin-2-yl)methyl)-7-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.100 mmol, 60 mg | O=C1N(C(C2=CC=CC=C12)=O)CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N | C34H25N5O4S
reactant | hydrazine hydrate | 0.100 mmol, 5.01 mg | O.NN
reactant | KOH | 1.001 mmol, 56.1 mg | [OH-].[K+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | CH2Cl2 2,2,2-trifluoroethanol | C(Cl)Cl.FC(CO)(F)F
product | 2-((5-(Aminomethyl)-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | NCC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H17N5
